US06429288B1
b) 4-Hydroxy-pyrrolidine-1,3-dicarboxylic acid 1-tert.-butylester 3-ethylester
To a solution of 5.15 g (20 mmol) 4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert. butylester 3-ethylester in 30 ml methanol was added 1.88 g (30 mmol) sodium cyanoborohydride and a small amount of methylorange. With stirring the pH was adjusted to 3 by dropwise addition of 1N hydrochloric acid (color change from yellow to orange). After no more acid was consumed the mixture was stirred for one hour. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was washed twice with water, then with brine, dried over magnesium sulfate and evaporated. The residual yellow oil was used in the next step without any further purification.

reactant | 4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert. butylester 3-ethylester | 20 mmol, 5.15 g | C(C)OC(=O)C1CN(CC1=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | sodium cyanoborohydride | 30 mmol, 1.88 g | C(#N)[BH3-].[Na+]
reactant | methylorange | CN(C)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)S(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 4-Hydroxy-pyrrolidine-1,3-dicarboxylic acid 1-tert.-butylester 3-ethylester | C(C)OC(=O)C1CN(CC1O)C(=O)OC(C)(C)C | C12H21NO5
